US05672609
2-(4-Benzyloxyphenyl)-3-(4-methoxyphenyl)-6-(4-fluorophenyl)pyridine
The 1-(4-benzyloxyphenyl)-2-(4-methoxyphenyl)-5-(4-fluorophenyl)pentan-1,5-dione (1.0 g, 2.4 mmol) and hydroxylamine hydrochloride (0.2 g, 2.9 mmol) were refluxed in 30 mL of MeOH for 48 h, worked up, and purified to give 0.45 g (40 % yield) of product: mp 114°-115° C.; 1H NMR (CDCl3) d 3.82 (s, 3H, OCH3), 5.06 (s, 2H, OCH2Ar), 6.83-6.89 (m, 4H, ArH), 7.13-7.19 (m, 4H, ArH), 7.34-7.44 (m, 7H, ArH), 7.65-7.74 (dd, 2H, J=8, ArH), 8.10-8.14 (m, 2H, ArH); MS(FD) 461(M+). Anal. Calcd for C31H24NO2F: C, 80.67; H, 5.24; N,3.03. Found: C, 80.87; H, 5.30; N, 3.09.

reactant | 1-(4-benzyloxyphenyl)-2-(4-methoxyphenyl)-5-(4-fluorophenyl)pentan-1,5-dione | 2.4 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(CCC(=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)OC)=O | C31H27FO4
reactant | hydroxylamine hydrochloride | 2.9 mmol, 0.2 g | Cl.NO
solvent | MeOH | 30 mL | CO | CH4O
product | 2-(4-Benzyloxyphenyl)-3-(4-methoxyphenyl)-6-(4-fluorophenyl)pyridine | 0.45 g, 40 % yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)F | C31H24FNO2
